US07659393B2
Synthesis of 8b-methyldecahydro-2a,4a,6a,8a-tetraazacyclopenta[fg]acenaphthylene [compound of the formula (IIb); series of steps (II); step (C)]
A 40% strength solution of 61.53 g of pyruvaldehyde in water (341.8 mmol) in 20 ml of water is added by slow dropwise addition INto a solution of 50 g (341.8 mmol) of triethylenetetraamine in 800 ml of distilled water cooled to 2° C. On completion of addition, the reaction mixture is adjusted to ambient temperature and 81.36 g (683.6 mmol) of benzotriazole are added in a single portion. A solution of glyoxal (40% in water) (341.8 mmol) in 200 ml of methanol is then added by slow dropwise addition. After 2 h of stirring at ambient temperature, 25.85 g (683.6 mmol) of NaBH4 are added in small portions. After 2 h of stirring at ambient temperature, the methanol is evaporated and 50 g of KOH pellets are added to the residue. The solution is then extracted with three 1.5 l portions of chloroform. After drying over MgSO4 and evaporation of the solvents, (IIb) is isolated in the form of an orange oil (28.50 g; yield=40%).

reactant | pyruvaldehyde | 61.53 g | C(C(=O)C)=O | C3H4O2
reactant | triethylenetetraamine | 341.8 mmol, 50 g | NCCNCCNCCN | C6H18N4
reactant | benzotriazole | 683.6 mmol, 81.36 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | glyoxal | 341.8 mmol | C(=O)C=O | C2H2O2
reactant | NaBH4 | 683.6 mmol, 25.85 g | [BH4-].[Na+]
solvent | water | 20 ml | O | H2O
solvent | water | 800 ml | O | H2O
solvent | methanol | 200 ml | CO | CH4O
solvent | water | 341.8 mmol | O | H2O
product | 8b-methyldecahydro-2a,4a,6a,8a-tetraazacyclopenta[fg]acenaphthylene | yield=40% | CC12N3CCN4CCN(CCN1CC3)C42 | C11H20N4
